US04431627
4-Aminobenzilic Acid Ethyl Ester
4.8 g (19.7 mmol) of 4-aminobenzilic acid was dissolved in 200 ml of absolute ethanol (EtOH) saturated with dry HCl gas. The reaction mixture was refluxed for 24 hours then spin evaporated to dryness in vacuum. The residue was dissolved in water and neutralized with NaHCO3, extracted with 2×50 ml of AcOEt, washed with water (2×) and the AcOEt extract filtered through a siliconized filter and dried over MgSO4. The dried solution was filtered and spin evaporated in vacuum. Yellow oil, 2.8 g (52%). SGTLC in acetone Rf 0.8. HPLC Bondapak μC18MeOH/H2O (75:25) pH 4 (formic acid). Elemental Analysis Calc. for C16H17NO3. Calc. C 70.83, H 6.32, N 5.16; Found C 70.77, H 6.47, N 5.04, 5.26.

reactant | 4-aminobenzilic acid | 19.7 mmol, 4.8 g | NC1=CC=C(C(C(=O)O)(O)C2=CC=CC=C2)C=C1 | C14H13NO3
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | HCl | Cl | ClH
product | 4-Aminobenzilic Acid Ethyl Ester | C(C)OC(C(O)(C1=CC=C(C=C1)N)C1=CC=CC=C1)=O | C16H17NO3
